US08748434B2
d) 4-Chloro-5-nitro-6-o-tolyl-pyrimidine
A stirring solution of 4,6-dichloro-5-nitropyrimidine (1.5 g, 7.73 mmol, CAS RN 4316-93-2), 2-methylphenyl boronic acid (1.16 g, 8.5 mmol), potassium carbonate (3.2 g, 23.2 mmol) and tetrakis-triphenylphosphine palladium(0) (447 mg, 0.30 mmol) in dioxane (50 mL) was heated under Argon atmosphere to 80° C. After 3 hours, the reaction mixture was cooled to room temperature and poured into saturated aqueous sodium bicarbonate solution and extracted three times with EtOAc. The combined organic layers were washed with brine and dried over MgSO4. Filtration followed by removal of volatiles gave a brown solid. Column chromatography on silica gel (50-75% ethyl acetate in n-hexane) provided the title compound gave 4-chloro-5-nitro-6-o-tolylpyrimidine (621 mg, 32%).

reactant | 4,6-dichloro-5-nitropyrimidine | 7.73 mmol, 1.5 g | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | 2-methylphenyl boronic acid | 8.5 mmol, 1.16 g | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | potassium carbonate | 23.2 mmol, 3.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 4-Chloro-5-nitro-6-o-tolyl-pyrimidine | ClC1=NC=NC(=C1[N+](=O)[O-])C1=C(C=CC=C1)C | C11H8ClN3O2
